US07687627B2
(S)-N-{3-[4-(4-hydroxy-3,3-dimethyl-piperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide
The title compound was prepared by reacting (S)-N-{3-[4-(4-oxo-3,3-dimethyl-piperidin-1-yl)-3-fluoro-phenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide (1.0 mmol), with sodiumborohydride (1.2 mmol)) methanol (10 ml) at a temperature 0-25° C. for 2 hours in 78% yield.

reactant | (S)-N-{3-[4-(4-oxo-3,3-dimethyl-piperidin-1-yl)-3-fluoro-phenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide | 1.0 mmol | O=C1C(CN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CNC(C)=O)=O)F)(C)C | C19H24FN3O4
reactant | sodiumborohydride | 1.2 mmol | [BH4-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
product | (S)-N-{3-[4-(4-hydroxy-3,3-dimethyl-piperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide | 78% yield | OC1C(CN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CNC(C)=O)=O)F)(C)C | C19H26FN3O4
